US09029370B2
Step b) (S)-tert-butyl 2-(2-fluoro-4-(1-(6-(trifluoromethyl)pyrimidin-4-yl)-1H-pyrazole-4-carboxamido)phenyl)morpholine-4-carboxylate
Under N2, (S)-tert-butyl 2-(2-fluoro-4-(1H-pyrazole-4-carboxamido)phenyl)morpholine-4-carboxylate (60 mg, 154 μmol, Eq: 1.00), 4-chloro-6-(trifluoromethyl)-pyrimidine (CAS 37552-81-1) (28 mg, 154 μmol, Eq: 1.00) and were combined in DMSO (2 ml). The orange solution was stirred at 120° C. over 1 hour. Control with TLC: the reaction was finished. At RT, the RM was partitioned between water and EtOAc; extracted; the organic layer was washed with water and brine; dried over MgSO4; filtered; concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 10 g, 15% to 60% EtOAc in heptane). Yellow solid (41 mg). MS: 535.7 ([M−H]−)

reactant | (S)-tert-butyl 2-(2-fluoro-4-(1H-pyrazole-4-carboxamido)phenyl)morpholine-4-carboxylate | 154 μmol, 60 mg | FC1=C(C=CC(=C1)NC(=O)C=1C=NNC1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C19H23FN4O4
reactant | 4-chloro-6-(trifluoromethyl)-pyrimidine | 154 μmol, 28 mg | ClC1=NC=NC(=C1)C(F)(F)F | C5H2ClF3N2
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | (S)-tert-butyl 2-(2-fluoro-4-(1-(6-(trifluoromethyl)pyrimidin-4-yl)-1H-pyrazole-4-carboxamido)phenyl)morpholine-4-carboxylate | FC1=C(C=CC(=C1)NC(=O)C=1C=NN(C1)C1=NC=NC(=C1)C(F)(F)F)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C24H24F4N6O4
